US07491720B2
(3) Synthesis of (6-(thiazol-2-ylamino)pyridin-2-yl)methanol
6.48g of 6-(((tert-butyl(dimethyl)silyl)oxy)methyl)-N-thiazol-2-ylpyridin-2-amine was dissolved in 100 ml of tetrahydrofuran. Under cooling with ice, a tetrabutylammonium fluoride-tetrahydrofuran solution (1.0 M, 20.2 ml) was added followed by stirring at room temperature for 1 hour. The reaction solution was diluted with ethyl acetate and then washed with phosphate buffer (pH 6.8). The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated to give the title compound.

reactant | 6-(((tert-butyl(dimethyl)silyl)oxy)methyl)-N-thiazol-2-ylpyridin-2-amine | 6.48g | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)NC=1SC=CN1 | C15H23N3OSSi
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1.0 M, 20.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6-(thiazol-2-ylamino)pyridin-2-yl)methanol | S1C(=NC=C1)NC1=CC=CC(=N1)CO | C9H9N3OS
